US06706751B2
A solution of 30 mg (0.066 mmol) of 6-Fluoro-5-(5-methanesulfonyloxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester and 0.1 ml (0.10 mmol) N-methylallylamine in 0.5 ml of DMF was stirred at 80° C. for 2 hours. The mixture was poured into 0.5 M aqueous NaOH and extracted with EtOAc. Drying of the combined organic layers with MgSO4, evaporation of the solvent, and chromatography on silica gel with EtOAc/MeOH/NEt3 10:1:0.1 gave 19 mg (67%) of 5-[5-(Allyl-methyl-amino)-pent-1-ynyl]-6-fluoro-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester as a light brown oil, MS: 427 (MH+, 1Cl).

reactant | 6-Fluoro-5-(5-methanesulfonyloxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 0.066 mmol, 30 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=C(C=C12)F)C#CCCCOS(=O)(=O)C | C21H19ClFNO5S
reactant | N-methylallylamine | 0.10 mmol, 0.1 ml | CC=CCN | C4H9N
reactant | NaOH | 0.5 M | [OH-].[Na+]
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 5-[5-(Allyl-methyl-amino)-pent-1-ynyl]-6-fluoro-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 19 mg, 67% | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=C(C=C12)F)C#CCCCN(C)CC=C | C24H24ClFN2O2
